US07820699B2
77.3 Using general method E, (3R,4S)-3-aminomethyl-4-trifluoromethyl-pyrrolidine-1-carboxylic acid[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-amide trifluoro acetate was coupled with 5-chlorothiophene-2-carboxylic acid to give (3R,4S)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-4-trifluoromethyl-pyrrolidine-1-carboxy-lic acid[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-amide. White solid. MS 443.0 ([M+H]+)

reactant | (3R,4S)-3-aminomethyl-4-trifluoromethyl-pyrrolidine-1-carboxylic acid[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-amide trifluoro acetate | FC(C(=O)O)(F)F.FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)N1C[C@H]([C@@H](C1)C(F)(F)F)CN
reactant | 5-chlorothiophene-2-carboxylic acid | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
product | (3R,4S)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-4-trifluoromethyl-pyrrolidine-1-carboxy-lic acid[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-amide | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)N1C[C@H]([C@@H](C1)C(F)(F)F)CNC(=O)C=1SC(=CC1)Cl | C23H19ClF4N4O3S
